US07101498B2
(1) Synthesis of 5-(4-biphenylcarbonyloxy)bicyclo[2.2.1]hept-2-ene
28 g (253.9 m mol) of norbornene alcohol (with an endo form/exo form molar ratio of 8/1) was measured into a 500 mL flask equipped with a dropping funnel, and the air inside the system was replaced with nitrogen. 41 mL (507.8 m mol) of pyridine was then added dropwise and stirred well until dissolved. Subsequently, with the temperature of the reaction system maintained at 4±2° C. by cooling in an ice bath, a solution of 50 g (230.8 m mol) of 4-phenylbenzoyl chloride dissolved in 200 mL of dry THF (tetrahydrofuran) was gradually dropped into the reaction solution with constant stirring, and following completion of the addition, stirring was continued for 1 hour with the reaction vessel still in the ice bath, and then for 1 hour at room temperature, and then for a further 30 minutes under reflux. Following cooling of the reaction mixture to room temperature, the generated pyridine salt was removed by filtration through filter paper, and the reaction mixture was well washed with distilled water. The solvent was then removed by heating under reduced pressure, and the product crystals were repeatedly recrystallized from n-hexane to yield 63 g of white crystals of 5-(4-biphenylcarbonyloxy)bicyclo[2.2.1]hept-2-ene (monomer). Analysis of the product crystals by HPLC revealed a purity of 98%.

reactant | pyridine | 41 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-phenylbenzoyl chloride | 50 g | C1(=CC=CC=C1)C1=CC=C(C(=O)Cl)C=C1 | C13H9ClO
reactant | THF | 200 mL | O1CCCC1 | C4H8O
product | 5-(4-biphenylcarbonyloxy)bicyclo[2.2.1]hept-2-ene | 63 g | C1(=CC=C(C=C1)C(=O)OC1C2C=CC(C1)C2)C2=CC=CC=C2 | C20H18O2
